US04254267
(B) (±)-3-(2-Furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid
Potassium hydroxide (660 mg) is dissolved in 25 cc of methanol and 1.66 g of 4-(2-furanyl)-4-oxo-2-butenoic acid is added. Hydrazine (320 mg) is then added and the solution is refluxed for 2 hours. The methanol is removed and the viscous residue is dissolved in 50 cc of water. The solution is made strongly acid with 20% HCl and a precipitate forms. The solid is filtered quickly to yield 1.2 g of the title compound, melting point 185°-190° C., dec.

reactant | Potassium hydroxide | 660 mg | [OH-].[K+]
reactant | 4-(2-furanyl)-4-oxo-2-butenoic acid | 1.66 g | O1C(=CC=C1)C(C=CC(=O)O)=O | C8H6O4
reactant | Hydrazine | 320 mg | NN | H4N2
solvent | methanol | 25 cc | CO | CH4O
product | (±)-3-(2-Furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 1.2 g | O1C(=CC=C1)C1=NNC(C1)C(=O)O | C8H8N2O3
